US07429565B2
6-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid methyl ester
To a solution of 6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester (222 mg, 0.66 mmol), triphenylphosphine (260 mg, 0.996 mmol), and diethyl azodicarboxylate (173 mg, 0.996 mmol) in THF (3 mL) at 0° C. was added a solution of 2-trimethylsilylethanol (142 μL, 0.996 mmol) in THF (3 mL). The resulting yellow solution was allowed to warm to room temperature and stirred overnight. The reaction was concentrated to dryness and ether and hexanes were added. Triphenylphosphine oxide was removed by filtration and the filtrate was concentrated and purified by silica gel chromatography to provide 248 mg of the desired product as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.03 (s, 9H), 1.18-1.30 (m, 2H), 1.81 (s, 3H), 2.18 (s, 3H), 2.25-2.33 (m, 2H), 2.37-2.45 (m, 2H), 3.42 (d, 2H, J=7 Hz), 3.62 (s, 3H), 3.77 (s, 3H), 4.25-4.35 (m, 2H), 5.13 (s, 2H), 5.12-5.22 (m, 1H) ppm.

reactant | 6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 0.66 mmol, 222 mg | COC(CCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)=O | C18H22O6
reactant | triphenylphosphine | 0.996 mmol, 260 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.996 mmol, 173 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-trimethylsilylethanol | 0.996 mmol, 142 μL | C[Si](CCO)(C)C | C5H14OSi
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid methyl ester | 248 mg | COC(CCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)=O | C23H34O6Si
